US09034900B2
Step 1: N-(3-bromo-5-phenylmethoxyphenyl)ethanesulfonamide
Ethylsulfonyl chloride (113 uL, 1.2 mmol) was added dropwise to a stirred solution of 3-bromo-5-phenylmethoxyaniline (284 mg, 1.0 mmol) and pyridine (247 uL, 3.1 mmol) in DCM (5 mL) at 0° C. under nitrogen. After the mixture was allowed to warm to rt and stir for 14 h, it was treated with 1N HCl (1 mL) and extracted with DCM (3×5 mL); the combined organic extracts were washed with saturated bicarbonate solution (aq), dried over sodium sulfate, filtered and concentrated in vacuo. The crude solid was purified by silica gel column chromatography using a gradient of EtOAc (5 to 95%) in hexanes to afford the title compound (345 mg, 94%) as an amber oil that solidified upon standing. LCMS (M+H)+=371.

reactant | Ethylsulfonyl chloride | 1.2 mmol, 113 uL | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 3-bromo-5-phenylmethoxyaniline | 1.0 mmol, 284 mg | BrC=1C=C(N)C=C(C1)OCC1=CC=CC=C1 | C13H12BrNO
reactant | pyridine | 3.1 mmol, 247 uL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1N, 1 mL | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(3-bromo-5-phenylmethoxyphenyl)ethanesulfonamide | 345 mg, 94% | BrC=1C=C(C=C(C1)OCC1=CC=CC=C1)NS(=O)(=O)CC | C15H16BrNO3S
